US09370522B2
The ester product was obtained via a Suzuki coupling reaction using the method previously shown in Example 13, Step 6, using methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (100 mg, 0.34 mmol, 1.00 equiv) and naphthalen-1-yl boronic acid (63 mg, 0.37 mmol, 1.10 equiv) as reactants. Purification via silica gel column (ethyl acetate/petroleum ether (1:20)) afforded 90 mg (69%) of methyl 3-(naphthalen-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow powder.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.34 mmol, 100 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | naphthalen-1-yl boronic acid | 0.37 mmol, 63 mg, 1.10 equiv | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | methyl 3-(naphthalen-1-yl)-2-phenylquinoxaline-6-carboxylate | 90 mg, 69% | C1(=CC=CC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C26H18N2O2
